US05750576
Z-4-[4-chloro-1-[4-(2-hydroxyethoxy)phenyl]-2-phenyl-but-1-enyl]phenol
1-[4-(2-Benzyloxyethoxy)-phenyl]-1-(4-benzyloxyphenyl)-4-chloro-2-phenylbut-1-ene (1.0 g, 1.74 mmol) was debenzylated by the same method as Z-1-[4-(2-benzyloxyethoxy)-phenyl]-4-chloro-1,2-diphenyl-but-1-ene described in example 3. The residue was crystallised from the mixture of ethanol and water (1:1). Yield 0.3 g.

reactant | 1-[4-(2-Benzyloxyethoxy)-phenyl]-1-(4-benzyloxyphenyl)-4-chloro-2-phenylbut-1-ene | 1.74 mmol, 1.0 g | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)C(=C(CCCl)C1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C38H35ClO3
reactant | Z-1-[4-(2-benzyloxyethoxy)-phenyl]-4-chloro-1,2-diphenyl-but-1-ene | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)\C(=C(\CCCl)/C1=CC=CC=C1)\C1=CC=CC=C1 | C31H29ClO2
product | Z-4-[4-chloro-1-[4-(2-hydroxyethoxy)phenyl]-2-phenyl-but-1-enyl]phenol | ClCC/C(=C(/C1=CC=C(C=C1)OCCO)\C1=CC=C(C=C1)O)/C1=CC=CC=C1 | C24H23ClO3
